### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): `charpoly` splits into `IsHermitian.eigenvalues`

### PR DESCRIPTION
**Pull request by llllvvuu**
Co-authored-by: @Aristotle-Harmonic

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 1]
```diff
@@ -141,6 +145,40 @@ theorem eigenvalues_eq (i : n) :
...
+  · simp only [decide_eq_true_eq]
+    exact (eigenvalues₀_antitone hA).ofFn_sorted
+
+lemma eigenvalues_eq_iff_charpoly_eq :
+    hA.eigenvalues = hB.eigenvalues ↔ A.charpoly = B.charpoly := by
+  constructor <;> intro h
+  · rw [hA.charpoly_eq, hB.charpoly_eq, h]
+  · unfold eigenvalues
+    simp_rw [eigenvalues₀_eq_charpoly_roots_sort_getI, h]
+
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean:178]: since the term "splits" is in the title, can you also add:
```suggestion

theorem polynomial_splits_charpoly (hA : A.IsHermitian) :
    Polynomial.Splits (RingHom.id 𝕜) A.charpoly :=
  Polynomial.splits_iff_card_roots.mpr (by simp [hA.charpoly_roots_eq_eigenvalues])

```
and import `Mathlib.Algebra.Polynomial.Splits`

**Comment by themathqueen** [comment]
Following my suggestion, can you then golf the determinant and trace theorems?
Instead of importing `Mathlib.Algebra.Polynomial.Splits`, just import `Mathlib.LinearAlgebra.Matrix.Charpoly.Eigs`. I.e.,

```lean
theorem det_eq_prod_eigenvalues : det A = ∏ i, (hA.eigenvalues i : 𝕜) := by
  simp [det_eq_prod_roots_charpoly_of_splits hA.polynomial_splits_charpoly,
    hA.charpoly_roots_eq_eigenvalues]
```

And
```lean
theorem trace_eq_sum_eigenvalues [DecidableEq n] (hA : A.IsHermitian) :
    A.trace = ∑ i, (hA.eigenvalues i : 𝕜) := by
  simp [trace_eq_sum_roots_charpoly_of_splits (hA.polynomial_splits_charpoly),
    hA.charpoly_roots_eq_eigenvalues]
```

**Comment by llllvvuu** [comment]
> Following my suggestion, can you then golf the determinant and trace theorems?

Applied, thanks!

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 2]
```diff
@@ -141,11 +146,47 @@ theorem eigenvalues_eq (i : n) :
     inner_self_eq_norm_sq_to_K, RCLike.smul_re, hA.eigenvectorBasis.orthonormal.1 i,
     mul_one, algebraMap.coe_one, one_pow, RCLike.one_re]
 
+open Polynomial in
+lemma charpoly_eq : A.charpoly = ∏ i, (X - C (RCLike.ofReal (hA.eigenvalues i))) := by
+  conv_lhs => rw [hA.spectral_theorem, charpoly_mul_comm, ← mul_assoc]
+  simp [charpoly_diagonal]
+
+lemma charpoly_roots_eq_eigenvalues :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean]:
```suggestion
lemma roots_charpoly_eq_eigenvalues :
```
The naming convention is to go from left to right, so `Polynomial.roots` -> `A.charpoly`.

With that in mind, can you also change the below in the same way?

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 3]
```diff
@@ -141,11 +146,46 @@ theorem eigenvalues_eq (i : n) :
...
+    exact (eigenvalues₀_antitone hA).ofFn_sorted
+
+lemma eigenvalues_eq_iff_charpoly_eq :
+    hA.eigenvalues = hB.eigenvalues ↔ A.charpoly = B.charpoly := by
+  constructor <;> intro h
+  · rw [hA.charpoly_eq, hB.charpoly_eq, h]
+  · unfold eigenvalues
+    simp_rw [eigenvalues₀_eq_getI_sort_roots_charpoly, h]
+
+theorem charpoly_splits (hA : A.IsHermitian) : A.charpoly.Splits (RingHom.id 𝕜) :=
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean]:
```suggestion
theorem splits_charpoly (hA : A.IsHermitian) : A.charpoly.Splits (RingHom.id 𝕜) :=
```

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 4]
```diff
@@ -141,11 +146,46 @@ theorem eigenvalues_eq (i : n) :
...
+    hA.eigenvalues₀ = fun i ↦ ((A.charpoly.roots.map RCLike.re).sort (· ≥ ·)).getI i.val := by
+  rw [hA.roots_charpoly_eq_eigenvalues₀]
+  simp_rw [Fin.univ_val_map, Multiset.map_coe, List.map_ofFn,
+    Function.comp_def, RCLike.ofReal_re, Multiset.coe_sort]
+  rw [List.mergeSort_of_sorted]
+  · simp [List.getI_eq_getElem]
+  · simp only [decide_eq_true_eq]
+    exact (eigenvalues₀_antitone hA).ofFn_sorted
+
+lemma eigenvalues_eq_iff_charpoly_eq :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean]: I feel like `eigenvalues_eq_eigenvalues_iff_charpoly_eq_charpoly` or something similar might be a better name. But maybe @j-loreaux can say something about this?

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 5]
```diff
@@ -141,11 +146,46 @@ theorem eigenvalues_eq (i : n) :
...
+  · simp [Finset.prod_ne_zero_iff, Polynomial.X_sub_C_ne_zero]
+
+lemma roots_charpoly_eq_eigenvalues₀ :
+    A.charpoly.roots = Multiset.map (RCLike.ofReal ∘ hA.eigenvalues₀) Finset.univ.val := by
+  rw [hA.roots_charpoly_eq_eigenvalues]
+  simp only [← Multiset.map_map, eigenvalues, ← Function.comp_apply (f := hA.eigenvalues₀)]
+  simp
+
+lemma eigenvalues₀_eq_getI_sort_roots_charpoly :
+    hA.eigenvalues₀ = fun i ↦ ((A.charpoly.roots.map RCLike.re).sort (· ≥ ·)).getI i.val := by
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean]: This is a slightly weird result to me, especially since it uses `List.getI` instead of `List.get`.

I think an even better phrasing would be something like: `(A.charpoly.roots.map RCLike.re).sort (· ≥ ·) = List.ofFn (hA.eigenvalues₀)`

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean (hunk 4 above)
Comment (j-loreaux) [reply Mathlib/LinearAlgebra/Matrix/Spectrum.lean]: `eigenvalues_eq_eigenvalues_iff` seems reasonable, or maybe `eigenvalues_ext_iff`?

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 6]
```diff
@@ -4,7 +4,9 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Alexander Bentkamp
 -/
 import Mathlib.Analysis.InnerProductSpace.Spectrum
+import Mathlib.Data.List.GetD
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean]: I think we should be able to omit this with my comment below.

**Review by j-loreaux — COMMENTED** [review]
Seems reasonable, but a few comments.

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean (hunk 4 above)
Comment (llllvvuu) [reply Mathlib/LinearAlgebra/Matrix/Spectrum.lean]: Putting `eigenvalues_eq_eigenvalues_iff` for now. The `ext` is slightly unintuitive to me, the most intuitive similar thing I could find is [Matrix.ext_iff_trace_mul_left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/Trace.html#Matrix.ext_iff_trace_mul_left) which would suggest here `eigenvalues_ext_iff_charpoly`

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean (hunk 5 above)
Comment (llllvvuu) [reply Mathlib/LinearAlgebra/Matrix/Spectrum.lean]: Done

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean (hunk 6 above)
Comment (llllvvuu) [reply Mathlib/LinearAlgebra/Matrix/Spectrum.lean]: Done

**Comment by j-loreaux** [comment]
bors merge
